US06228868B1
7-methyl-5-indolecarboxilic acid
A solution of 7-methyl-5-indolyl trifluoromethanesulfonate (3.19 g, 11.4 mmol), triethylamine, and 1,1′-bis(diphenylphosphino)ferrocene palladium (II) chloride (catalytic)in 9:1 THF/water was stirred under CO2 (500 psi) until HPLC indicated complete conversion. The solution was treated with water (30 mL), adjusted to pH 4-5, and extracted sequentially with ethyl acetate (100 mL) and dichloromethane (3×40 mL). The combined extracts were dried (Na2SO4), filtered, and concentrated to provide the desired product which was used in the next step without further purification.

reactant | 7-methyl-5-indolyl trifluoromethanesulfonate | 11.4 mmol, 3.19 g | FC(S(=O)(=O)OC=1C=C2C=CNC2=C(C1)C)(F)F | C10H8F3NO3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | THF water | C1CCOC1.O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium (II) chloride | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | 30 mL | O | H2O
product | 7-methyl-5-indolecarboxilic acid | CC=1C=C(C=C2C=CNC12)C(=O)O | C10H9NO2
